US09315462B2
Step 2: Synthesis of 3-chloro-4-(6-hydroxyquinolin-2-yl)benzonitrile
A mixture of crude 3-chloro-4-(6-hydroxyquinolin-2-yl)benzamide (360 mg), TFAA (505 mg, 2.40 mmol) and Et3N (364 mg, 3.62 mmol) in DCM (20 mL) was stirred at 30° C. overnight. The resulting mixture was suspended in water (50 mL) and extracted with EtOAc (50 mL×3). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (PE/EtOAc=10/1) to give the product (250 mg, 3-step yield 67%) as a solid.

reactant | 3-chloro-4-(6-hydroxyquinolin-2-yl)benzamide | 360 mg | ClC=1C=C(C(=O)N)C=CC1C1=NC2=CC=C(C=C2C=C1)O | C16H11ClN2O2
reactant | TFAA | 2.40 mmol, 505 mg | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Et3N | 3.62 mmol, 364 mg | CCN(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 3-chloro-4-(6-hydroxyquinolin-2-yl)benzonitrile | yield 67% | ClC=1C=C(C#N)C=CC1C1=NC2=CC=C(C=C2C=C1)O | C16H9ClN2O
